US07592457B2
5,7-dichloro-3-methyl-3-phenyl-1H-quinoline-2,4-dione
To a pre-cooled (−78° C.) solution of 4,6-dichloro-2-(2-phenyl-propionyl amino)-benzoic acid methyl ester (0.82 g, 2.30 mmol) in dry THF (70 mL) was added dropwise LiHMDS [prepared by treatment of a hexamethyldisilazide (1.47 mL, 6.90 mmol) in dry THF (25 mL) with n-BuLi (3.70 mmol, 2.5M hexane solution) for 1 hour at −78° C.]. The reaction mixture was stirred for 1 hour and then refluxed overnight under a nitrogen atmosphere. After cooling to room temperature, the reaction was quenched by the addition of 1N HCl aqueous solution. Subsequently, the resultant was extracted with ethyl acetate (150 mL×3), and organic phase was washed with brine (150 mL×2) and water (150 mL×2) dried with magnesium sulfate. After evaporation the solvent, an objective compound (0.57 g, 78%) was obtained as yellow solid by a flash column chromatography (Hexane:EtOAc=4:1): 1H NMR (200 MHz, CD3OD+DMSO-d6) δ 1.61 (s, 3H, CH3), 6.96 (m, 1H, ArH), 7.08-7.34 (m, 6H, ArH); m.p. 222-225° C.; MS(EI) m/e 319 [M+], 285, 132, 104.

reactant | 4,6-dichloro-2-(2-phenyl-propionyl amino)-benzoic acid methyl ester | 2.30 mmol, 0.82 g | COC(C1=C(C=C(C=C1Cl)Cl)NC(C(C)C1=CC=CC=C1)=O)=O | C17H15Cl2NO3
reactant | LiHMDS | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | hexamethyldisilazide | 6.90 mmol, 1.47 mL | C[Si]([N-][Si](C)(C)C)(C)C
reactant | n-BuLi | 3.70 mmol, 2.5M | [Li]CCCC
solvent | THF | 70 mL | C1CCOC1 | C4H8O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 5,7-dichloro-3-methyl-3-phenyl-1H-quinoline-2,4-dione | 0.57 g, 78% | ClC1=C2C(C(C(NC2=CC(=C1)Cl)=O)(C1=CC=CC=C1)C)=O | C16H11Cl2NO2
